US07491713B2
Step D: Benzyl 1-(cyclopropylmethyl)-5-iodo-2-oxo-1,2-dihydropyridin-3-ylcarbamate
Cyclopropylmethyl bromide (0.100 mL, 0.99 mmol) and cesium carbonate (0.323 mg, 0.99 mmol) were added to a solution of benzyl 5-iodo-2-oxo-1,2-dihydropyridin-3-ylcarbamate (0.245 g, 0.66 mmol) in dimethylformamide (3 mL) and stirred overnight. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated. Purification by chromatography (silica gel, 10% to 50% ethyl acetate in hexanes gradient elution) gave the title compound (0.190 g). MS 425 (M+1)

reactant | Cyclopropylmethyl bromide | 0.99 mmol, 0.100 mL | C1(CC1)CBr | C4H7Br
reactant | cesium carbonate | 0.99 mmol, 0.323 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 5-iodo-2-oxo-1,2-dihydropyridin-3-ylcarbamate | 0.66 mmol, 0.245 g | IC=1C=C(C(NC1)=O)NC(OCC1=CC=CC=C1)=O | C13H11IN2O3
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Benzyl 1-(cyclopropylmethyl)-5-iodo-2-oxo-1,2-dihydropyridin-3-ylcarbamate | 0.190 g | C1(CC1)CN1C(C(=CC(=C1)I)NC(OCC1=CC=CC=C1)=O)=O | C17H17IN2O3
